US09212182B2
A solution of Pd(Amphos)2Cl2 (1.188 g, 1.678 mmol), ethyl crotonate (5.01 ml, 40.3 mmol), 4-bromo-2-iodoaniline (Spectrum Bioscience, 10.000 g, 33.6 mmol), and n,n-diisopropylethylamine (7.03 ml, 40.3 mmol) in 6 mL DMF was heated to 90° C. for 6 hours. The reaction mixture was then poured into water and was extracted with DCM. The organics were dried over MgSO4 and concentrated. Purification of the crude residue by silica gel column chromatography (0-100% EtOAc/heptane) gave (Z)-ethyl 3-(2-amino-5-bromophenyl)but-2-enoate (3.817 g, 13.43 mmol, 40.0% yield) with minor impurities. m/z (ESI) 286.1 (M+H)+.

reactant | ethyl crotonate | 40.3 mmol, 5.01 ml | C(\C=C\C)(=O)OCC | C6H10O2
reactant | 4-bromo-2-iodoaniline | 33.6 mmol, 10.000 g | BrC1=CC(=C(N)C=C1)I | C6H5BrIN
reactant | n,n-diisopropylethylamine | 40.3 mmol, 7.03 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | water | O | H2O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | (Z)-ethyl 3-(2-amino-5-bromophenyl)but-2-enoate | 13.43 mmol, 3.817 g, 40.0% yield | NC1=C(C=C(C=C1)Br)\C(=C/C(=O)OCC)\C | C12H14BrNO2
